US08957070B2
7-{[(4-Methylphenyl)sulfonyl]amino}-1H-indole-2-carboxylic acid
To a mixed solution of ethyl 7-{[(4-methylphenyl)sulfonyl]amino}-1H-indole-2-carboxylate (356 mg) in tetrahydrofuran (6 mL)-methanol (6 mL) was added aqueous solution (3 mL) of 85% potassium hydroxide (450 mg), and the mixture was stirred at room temperature for 18 hr. Aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane to give the title compound (312 mg, yield 95%) as pale-yellow crystals. melting point 268-269° C.

reactant | ethyl 7-{[(4-methylphenyl)sulfonyl]amino}-1H-indole-2-carboxylate | 356 mg | CC1=CC=C(C=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)OCC | C18H18N2O4S
reactant | methanol | 6 mL | CO | CH4O
reactant | potassium hydroxide | 3 mL, 450 mg | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 7-{[(4-Methylphenyl)sulfonyl]amino}-1H-indole-2-carboxylic acid | 312 mg, yield 95% | CC1=CC=C(C=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C16H14N2O4S
